US08614226B2
A solution of 471 mg (0.994 mmol) 2-(5-chloro-2-fluoro-phenyl)-4-(5-triethylsilanylethynyl-pyridin-3-yl)-[1,8]naphthyridine in 6 ml THF was treated with 1.19 ml of a 1 M solution of tetra-n-butylammonium fluoride in THF and stirred for 1 hour at room temperature. Then 276 μl (1.99 mmol) triethylamine, 190 mg (1.21 mmol) 4-(2-azido-ethyl)-morpholine and 9.5 mg (0.05 mmol) cuprous iodide were added. The reaction mixture was stirred for 66 hours at 70° C. The reaction mixture was cooled to room temperature and partitioned between ethylacetate and brine. The organic phase was dried over sodium sulfate and evaporated. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 2-(5-chloro-2-fluoro-phenyl)-4-{5-[1-(2-morpholin-4-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-[1,8]naphthyridine as colourless solid; HPLC-MS: 1.50 min, [M+H] 516.

reactant | 2-(5-chloro-2-fluoro-phenyl)-4-(5-triethylsilanylethynyl-pyridin-3-yl)-[1,8]naphthyridine | 0.994 mmol, 471 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C#C[Si](CC)(CC)CC)F | C27H25ClFN3Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | triethylamine | 1.99 mmol, 276 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(2-azido-ethyl)-morpholine | 1.21 mmol, 190 mg | N(=[N+]=[N-])CCN1CCOCC1 | C6H12N4O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(5-chloro-2-fluoro-phenyl)-4-{5-[1-(2-morpholin-4-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C=1N=NN(C1)CCN1CCOCC1)F | C27H23ClFN7O
